US06469188B1
Pyrrolidine (10.0 mL, 0.116 mol) was syringed into a solution of 2-adamantanone (25.00 g, 0.1664 mol) and cyclopentadiene (30.0 mL, 0.364 mol) in 250 mL of methanol. The reaction was stirred for 92 hours before the yellow precipitate was collected by suction filtration, rinsed with a small volume of methanol and dried in vacuo. 25.71 grams (77.9%) of adamantyl fulvene were isolated. 6.00 grams (0.0303 mol) of this product were dissolved in 30 mL of tetrahydrofuran and this solution added over 30 minutes to at stirred slurry of LiAlH4 (1.40 g, 0.0369 mol) at 0° C. After 5 hours of stirring at room temperature, the reaction was cooled to 0° C. and quenched by slow addition of 20 mL of saturated NH4Cl solution. Then 300 mL H2O, 25 mL concentrated HCl, and 50 mL diethyl ether were added, the organic layer isolated, and the aqueous layer extracted with addition diethyl ether (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and rotavapped to give the product, (2-adamantyl)cyclopentadiene, in quantitative yield as a light yellow oil. To this material was added 50 mL methanol, 50 mL ethanol, 20 mL tetrahydrofuran, 36 mL acetone (0.49 mol) and 0.5 mL pyrrolidine (0.006 mol). After stirring for 48 hours, 5 mL of acetic acid were injected, followed by 200 mL H2O and 200 mL diethyl ether. The organic layer was isolated and the aqueous layer extracted with diethyl ether (3×40 mL). The combined organic layers were extracted with H2O (3×25 mL) and with 10% aqueous NaOH (3×25 mL), dried over MgSO4, filtered and rotavapped. The obtained yellow solid was further purified by overnight soxlet extraction by 150 mL methanol. The precipitate in the filtrate was isolated by filtration at 0° C., and in vacuo drying: 4.54 g (62.5%) of 3-(2-adamantyl)-6,6-dimethylfulvene, as a yellow powder.

reactant | Pyrrolidine | 0.116 mol, 10.0 mL | N1CCCC1 | C4H9N
reactant | 2-adamantanone | 0.1664 mol, 25.00 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | cyclopentadiene | 0.364 mol, 30.0 mL | C1=CC=CC1 | C5H6
solvent | methanol | 250 mL | CO | CH4O
product | adamantyl fulvene | 25.71 grams, 77.9% | C12(CC3CC(CC(C1)C3)C2)C2=CC=CC2=C | C16H20
